US09120749B2
2-(5-aminopyridin-2-ylamino)ethanol
Following General procedure H, 2-chloro-5-nitropyridine (500 mg, 3.1 mmol) was reacted with 2-aminoethanol (213 mg, 3.5 mmol) followed by reduction to afford the desired product (306 mg, 65%) as a purple solid: ESI MS m/z 154 [C7H11N3O+H]+.

reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-aminoethanol | 3.5 mmol, 213 mg | NCCO | C2H7NO
product | 2-(5-aminopyridin-2-ylamino)ethanol | 306 mg, 65% | NC=1C=CC(=NC1)NCCO | C7H11N3O
